US08048884B2
Preparation 24: 1-(2-Chloro-pyridin-3-yl)-piperazine hydrochloride salt
Dissolve 4-(2-chloro-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (8.300 g, 27.872 mmol) in dichloromethane (200 mL). Slowly add 4N HCl in dioxane (42 mL). Stir at room temperature for 8 hours. Concentrate and wash the resulting solid with diethyl ether to afford the title preparation (7.500 g, 99% yield). MS ES: m/z=198 [M+H]+.

reactant | 4-(2-chloro-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 27.872 mmol, 8.300 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CC1)Cl | C14H20ClN3O2
reactant | HCl | 4N | Cl | ClH
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dioxane | 42 mL | O1CCOCC1 | C4H8O2
product | 1-(2-Chloro-pyridin-3-yl)-piperazine hydrochloride salt | 99% yield | Cl.ClC1=NC=CC=C1N1CCNCC1 | InChI=1S/C9H12ClN3.ClH/c10-9-8(2-1-3-12-9)13-6-4-11-5-7-13;/h1-3,11H,4-7H2;1H
